US06100258
A solution of 2-allyloxy-5-bromobenzaldehyde (5.27 g, 21.9 mM) was treated with sodium borohydride, (0.415 g, 10.9 mM). The reaction was stirred at ambient temperature for 21/2 hours, water was added and the solvent removed at reduced pressure. The residue was acidified to pH 1 and extracted with ethyl acetate twice. The organic layers were combined, dried (MgSO4) and evaporated to give 2-allyloxy-5-bromobenzyl alcohol (5.12 g, 96%) as a white solid.

reactant | 2-allyloxy-5-bromobenzaldehyde | 21.9 mM, 5.27 g | C(C=C)OC1=C(C=O)C=C(C=C1)Br | C10H9BrO2
reactant | sodium borohydride | 10.9 mM, 0.415 g | [BH4-].[Na+]
solvent | water | O | H2O
product | 2-allyloxy-5-bromobenzyl alcohol | 5.12 g, 96% | C(C=C)OC1=C(CO)C=C(C=C1)Br | C10H11BrO2
